US07834034B2
6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid.
To a solution of 6-(carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester (295 mg, 1.05 mmol) in MeOH/THF (1.5/6 mL) was added 1M LiOH (1.16 mL). The resultant solution was stirred overnight and 1N HCl was added dropwise to acidify (˜2 mL). The solvent was removed in vacuo and the solid was used without further purification. cal'd 254 (MH+), exp 254 (MH+).

reactant | 6-(carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 1.05 mmol, 295 mg | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(F)C(N)=O | C13H12FNO3S
reactant | LiOH | 1M, 1.16 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH THF | 5/6 mL | CO.C1CCOC1
product | 6-(Carbamoyl-fluoro-methyl)-benzo[b]thiophene-2-carboxylic acid | C(N)(=O)C(C=1C=CC2=C(SC(=C2)C(=O)O)C1)F | C11H8FNO3S
